US07985755B2
[4-(2,4-Diamino-quinazolin-5-yl)-piperazin-1-yl]-(4-fluoro-phenyl)-methanone
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 4-fluorobenzoyl chloride (65 mg; 0.41 mmol) to obtain 26 mg. (36% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.78 (s, 1H), 7.54 (m, 2H), 7.39 (t, J=8.0 Hz, 1H), 7.30 (m, 2H), 7.16 (br s, 1H), 6.98 (d, J=8.0 Hz, 1H), 6.85 (d, J=8.0 Hz, 1H), 5.93 (br s, 2H), 4.55 (br s, 1H), 3.67 (br s, 1H), 3.37 (m, 2H), 3.08 (m, 2H), 2.77 (m, 2H). ESIMS+367.5 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 4-fluorobenzoyl chloride | 0.41 mmol, 65 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | [4-(2,4-Diamino-quinazolin-5-yl)-piperazin-1-yl]-(4-fluoro-phenyl)-methanone | 36% yield | NC1=NC2=CC=CC(=C2C(=N1)N)N1CCN(CC1)C(=O)C1=CC=C(C=C1)F | C19H19FN6O
